US06020345
Stage 1: 2-[1,3]dioxolan-2-yl-6-oxazol-5-yl-pyridine
1 g of 6-[1,3]dioxolan-2-yl-pyridine-2-carbaldehyde (5.58 mmol), 1.10 g of tosylmethyl isocyanate (5.63 mmol) and 0.80 g of potassium carbonate (5.79 mmol) are mixed in 15 ml of methanol. The suspension is heated under reflux for 2 hours. The methanol is separated off, the residue is taken up in a saturated aqueous solution of sodium chloride and the mixture is extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then concentrated under vacuum. The title product is isolated by chromatography on a silica column (eluent: hexane/ethyl acetate; 50:50). 1.14 g of a yellow oil are obtained.

reactant | 6-[1,3]dioxolan-2-yl-pyridine-2-carbaldehyde | 5.58 mmol, 1 g | O1C(OCC1)C1=CC=CC(=N1)C=O | C9H9NO3
reactant | tosylmethyl isocyanate | 5.63 mmol, 1.10 g | S(=O)(=O)(C1=CC=C(C)C=C1)CN=C=O | C9H9NO3S
reactant | potassium carbonate | 5.79 mmol, 0.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | 2-[1,3]dioxolan-2-yl-6-oxazol-5-yl-pyridine | O1C(OCC1)C1=NC(=CC=C1)C1=CN=CO1 | C11H10N2O3
